US06211215B1
In substantially the same manner as in Working Example 135, 6-bromo-2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]imidazo[1,2-a]pyridine was allowed to react with phenylboronic acid to give 2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-6-phenylimidazo[1,2-a]pyridine. The yield was 78%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 106-107° C.

reactant | 6-bromo-2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C=C(N2)COC2=CC=C(C=C2)CCCN2C=NC=C2 | C20H19BrN4O
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-6-phenylimidazo[1,2-a]pyridine | yield was 78% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C3N(C=C(C=C3)C3=CC=CC=C3)C2)C=C1 | C26H24N4O
